US05618942
Butyl 2,2,4-trichloro-4-cyanobutyrate (12 g), phosphorus oxychloride (40 mL) and dry HCl gas (1.6 g) were heated at 140° C. for 10 hours. The resulting reaction mixture was worked up as described in Example 1 and 32 mL of POCl3 were recovered. The methylene chloride solution obtained after work-up was analyzed by GLC with an internal standard. The analysis indicated a 62% yield of 2,3,5,6-tetrachloropyridine.

reactant | Butyl 2,2,4-trichloro-4-cyanobutyrate | 12 g | ClC(C(=O)OCCCC)(CC(C#N)Cl)Cl | C9H12Cl3NO2
reactant | HCl | 1.6 g | Cl | ClH
reactant | phosphorus oxychloride | 40 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 32 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,3,5,6-tetrachloropyridine | 62% yield | ClC1=NC(=C(C=C1Cl)Cl)Cl | C5HCl4N
